US04626544
Preparation of trans-1-(2-fluorophenoxy)-4-bromobut-2-ene
100 g (0.9 mole) of 2-fluorophenol and 477 g (2.7 moles) of trans-1,4-dibromobut-2-ene were stirred under reflux with 70 g of K2CO3 in 500 ml of acetone for 5 hours. The mixture was filtered, and acetone was evaporated off under reduced pressure, the residue was taken up in methylene chloride, the solution was washed four times with aqueous 1 N NaOH solution, and the methylene chloride phase was dried with sodium sulfate and freed from unreacted 1,4-dibromobutene under reduced pressure. 175 g of trans-1-(2-fluorophenoxy)-4-bromobut-2-ene remained.

reactant | 2-fluorophenol | 0.9 mole, 100 g | FC1=C(C=CC=C1)O | C6H5FO
reactant | trans-1,4-dibromobut-2-ene | 2.7 moles, 477 g | BrC\C=C\CBr | C4H6Br2
reactant | K2CO3 | 70 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | trans-1-(2-fluorophenoxy)-4-bromobut-2-ene | FC1=C(OC\C=C\CBr)C=CC=C1 | C10H10BrFO
